US04145364
Step A: Preparation of 3-cyanophenylazide
A suspension of 9.44g. (0.08 mole) of 3-cyanoaniline in 50 ml. of water at 0° C. was treated with 20 ml. of concentrated HCl, with slow addition, maintaining the reaction mixture temperature at or below 5° C. There was then added a solution of 6.07g. (0.088 mole) of NaNO2 in 20 ml. of water, and the reaction mixture was aged for 1/2 hour at 0°-5° C. Then to the clear reaction mixture solution was added 75 ml. of hexane, followed by a solution of 5.72g. (0.088 mole) of NaN3 in 20 ml. of water, which were added dropwise with stirring. A precipitate was observed to form, after which 100 ml. of ether was added. The organic and aqueous components of the reaction mixture was separated and the aqueous component was extracted with 100 ml. of ether. The organic component was dried over MgSO4 and concentrated to a volume of about 100 ml. An aliquot was blown down and the structure of the product confirmed for 3-cyanophenylazide.

reactant | 3-cyanoaniline | 0.08 mole | C(#N)C=1C=C(N)C=CC1 | C7H6N2
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.088 mole | N(=O)[O-].[Na+]
reactant | NaN3 | 0.088 mole | [N-]=[N+]=[N-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 3-cyanophenylazide | C(#N)C=1C=C(C=CC1)N=[N+]=[N-] | C7H4N4
